### PR TITLE
feat(CategoryTheory/Monoidal/Cartesian/Endomorphism): add ring and semiring structures

### PR DESCRIPTION
**Pull request by abhijitaj1997**
Given two monoidal object in a nice enough category, this show that the monoidal morphisms between then forms an additive group. This additive group is part of a larger semiring structure.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 1]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
...
+commutative monoidal structure, the monoidal homomorphisms between them have a natural
+addition.
+
+We use the additive notation here for two reasons:
+1. Multiplication of functions usually means compositon
+2. The additive structure will later be part of a ring strucutre.
+
+I will submit the rest of the ring structure separately.
+-/
+instance : Add (Hom G H) where
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]: The `Hom` structure is not meant to be used directly like this. The idiom is to use it as a type of arrow for the category structure on monoid objects
```suggestion
instance : Add (G ⟶ H) where
```

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 2]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
...
+  add f g := {
+    hom := (lift f.hom g.hom) ≫ μ[H.X]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]: I that before giving the full thing in in the bundled form, you should define an addition in an unbundled form first:
```
variable {𝒞 : Type*} [Category* 𝒞] [CartesianMonoidalCategory 𝒞] [BraidedCategory 𝒞]
variable {G H : 𝒞} [MonObj G] [MonObj H] [IsCommMonObj H]

abbrev IsMonHom.add (f g : G ⟶ H) [IsMonHom f] [IsMonHom g] : G ⟶ H := (lift f g) ≫ μ[H]

instance (f g : G ⟶ H) [IsMonHom f] [IsMonHom g] : IsMonHom (IsMonHom.add f g) where
  one_hom := …
  mul_hom := …
```

Then, the bundled `Add` instance you construct here would use this definition.

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 3]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
...
+            rw[this, Category.assoc]
+            simp only [Category.comp_id, tensorHom_snd]
+        have : (λ_ (𝟙_ 𝒞)).inv ≫ (η[H.X] ⊗ₘ η[H.X]) = lift η[H.X] η[H.X] := by
+          ext <;> simp only [Category.assoc, tensorHom_fst, leftUnitor_inv_fst_assoc, toUnit_unit,
+            Category.id_comp, lift_fst,tensorHom_snd, leftUnitor_inv_snd_assoc,
+            lift_snd]
+        rw[← this, ← this₁, ← Category.assoc, Category.assoc, ← this₀]
+        simp only [id_tensorHom, id_whiskerLeft, IsMonHom.one_hom, Category.assoc,
+          Iso.inv_hom_id_assoc, tensorHom_id, MonObj.one_mul]
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]: There is a `simp` set called `mon_tauto` specifically made for handling goals like this about monoid objects, it shortens the proofs a lot here.

```lean
        have : η[G.X] ≫ lift f.hom g.hom = lift η[H.X] η[H.X] := by
          ext
          · simp [IsMonHom.one_hom f.hom]
          · simp [IsMonHom.one_hom g.hom]
        rw [reassoc_of% this]
        have : (λ_ (𝟙_ 𝒞)).inv ≫ (η[H.X] ⊗ₘ η[H.X]) = lift η[H.X] η[H.X] := by
          ext <;> simp only [mon_tauto] <;> simp
        simp_rw [← reassoc_of% this, mon_tauto]
```
here, `reassoc_of%` is a special elaborator that saves you the backwards rewriting via `Category.assoc`. We usually try to use this instead of `rw [← Category.assoc]`. Also, please notice that the mathlib convention is to have a space between `rw` and the `[…]`.

Now, this proof is still not satisfying: I think the two `have` that you inline here should be extracted as statements about the composite of a `η` followode by a `lift` of two monoid morphisms (again, in the unbundled case).

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 4]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
...
+          ext <;> simp only [comp_lift, IsMonHom.mul_hom, lift_fst,lift_snd]
+        rw[← Category.assoc, this, f.isMonHom_hom.mul_hom, g.isMonHom_hom.mul_hom]
+        have this₀ : lift ((f.hom ⊗ₘ f.hom) ≫ μ) ((g.hom ⊗ₘ g.hom) ≫ μ)
+            = lift (f.hom ⊗ₘ f.hom) (g.hom ⊗ₘ g.hom) ≫ (μ ⊗ₘ μ) := by
+          ext <;> simp only [lift_fst, lift_snd, lift_map]
+        have this₀₀ : ((lift (f.hom) (g.hom)) ⊗ₘ (lift (f.hom) (g.hom))) ≫ (μ ⊗ₘ μ)
+            = (lift f.hom g.hom ≫ μ ⊗ₘ lift f.hom g.hom ≫ μ) := by
+          ext <;> simp only [tensorHom_comp_tensorHom, tensorHom_fst, tensorHom_snd]
+        have big_this : (α_ H.X H.X (H.X ⊗ H.X)).hom ≫ ((𝟙 H.X) ⊗ₘ (α_ H.X H.X H.X).inv) ≫
+            ((𝟙 H.X) ⊗ₘ μ ⊗ₘ (𝟙 H.X)) ≫ ((𝟙 H.X) ⊗ₘ μ) ≫ μ = (μ ⊗ₘ μ) ≫ μ := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]: We’ll get to shortening this, but note that most of the monoidal category lemmas in mathlib will spell
`(𝟙 H.X) ⊗ₘ (α_ H.X H.X H.X).inv` as `H.X ◁ (α_ H.X H.X H.X).inv`, `(𝟙 H.X) ⊗ₘ μ ⊗ₘ (𝟙 H.X)` as `H.X ◁ μ ▷ H.X` and `(𝟙 H.X) ⊗ₘ μ` as `H.X ◁ μ`: you will find more lemmas to apply if you spell things this way.

One of the reason is that the `⊗ₘ` is doing "parallel morphisms" while working with whiskerings only makes things happen sequentially: automation is better at handling the sequential stuff.

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 5]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
...
+                  have {U V W X Y Z : 𝒞} (φ₁ : U ⟶ W) (φ₂ : V ⟶ X) (ψ₁ : W ⟶ Y)
+                      (ψ₂ : X ⟶ Z) : (φ₁ ⊗ₘ φ₂) ≫ (ψ₁ ⊗ₘ ψ₂) = (φ₁ ≫ ψ₁) ⊗ₘ (φ₂ ≫ ψ₂) := by
+                    ext <;> simp
+                  rw[LHS, this (𝟙 (H.X ⊗ H.X)) μ[H.X] μ[H.X] (𝟙 H.X)]
+                rw[this]
+                simp only [Category.id_comp, Category.comp_id]
+              rw[this]
+            · simp only [Category.assoc, whiskerRight_snd, associator_inv_snd,
+              whiskerLeft_snd_assoc, whiskerLeft_snd, associator_hom_snd_snd_assoc, tensorHom_snd]
+          rw[this]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]: this is an example where `mon_tauto` works well.
```suggestion
            ((𝟙 H.X) ⊗ₘ μ ⊗ₘ (𝟙 H.X)) ≫ ((𝟙 H.X) ⊗ₘ μ) ≫ μ = (μ ⊗ₘ μ) ≫ μ := by
          simp only [mon_tauto]
```

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 6]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
 
 end
 
+section RingStructure
+open CategoryTheory MonoidalCategory Mon MonObj CartesianMonoidalCategory
+
+variable {𝒞} [Category 𝒞] [CartesianMonoidalCategory 𝒞] [BraidedCategory 𝒞]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]:
```suggestion
variable {𝒞 : Type*} [Category* 𝒞] [CartesianMonoidalCategory 𝒞] [BraidedCategory 𝒞]
```
introducing types via `{𝒞}` is usually discouraged in mathlib.

**Review by robin-carlier — COMMENTED** [review]
This is only a partial review.

Besides the inline comments, I think it would be better to keep `Monoidal/Mon` clear of Cartesian monoidal category stuff: the material here is probably best suited for a (potentially new) file in the `Monoidal/Cartesian` directory

File: Mathlib/CategoryTheory/Monoidal/Mon.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: Mathlib usually uses the plain `C` (certainly easier to type) for categories instead of this curly 𝒞.

File: Mathlib/CategoryTheory/Monoidal/Mon.lean [hunk 7]
```diff
@@ -1248,6 +1249,193 @@ lemma MonObj.mul_mul_mul_comm' [IsCommMonObj M] :
...
+variable {G : Mon 𝒞}
+variable {H : Mon 𝒞} [IsCommMonObj H.X]
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Monoidal/Mon.lean]: As I said on Zulip I think you should use the additive counterparts [CategoryTheory.AddMon](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Monoidal/Mon.html#CategoryTheory.AddMon) and [CategoryTheory.IsCommAddMonObj](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Monoidal/Mon.html#CategoryTheory.IsCommAddMonObj) instead, to avoid instances that produces something additive (`Add (Hom G H)`) from something multiplicative (`Mon`). If we use `Mon` we should get `Mul (Hom G H)` instance instead, and we can obtain the additive version via `to_additive` if the `Mon` and `AddMon` etc. are linked appropriately. @robin-carlier Do we have a plan/consensus to add `to_additive` attributes?

File: Mathlib/CategoryTheory/Monoidal/Mon.lean (hunk 1 above)
Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: @robin-carlier Thanks a lot for all your comments. I shall create a new file in `Monoidal/Cartesian/` and do all the changes you suggested over there. It would be easier to merge that file later with something else rather than go the other way around.

File: Mathlib/CategoryTheory/Monoidal/Mon.lean (hunk 7 above)
Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: I do understand the problem you are raising, but I am not sure how I should then deal with the fact that there is a ring structure on `Hom A A` for commutative group objects `A` and `B`. I would only be able to define the ring structure for something that is an additive group object then - and I am currently working with something that is a group object, and I need the ring structure on the endomorphisms.

If you have a solution to this problem, I would gladly use `AddMon` instead.

**Comment by abhijitaj1997** [comment]
@robin-carlier I have pushed the changes you had mentioned. I was also able to get rid of a couple more `have`s using the the ideas you mentioned. But, there are a few more in there which I don't think look that great, but I wasn't able to remove them. Please let me know what you think of these changes.

Also, I did this in a new file like you mentioned. Claude asked me to add a copyright section with my name at the top of the file. I have done that, but I don't know if I should remove it!

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Hom.lean [hunk 8]
```diff
@@ -0,0 +1,125 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Abhijit A J
+-/
+module
+
+public import Mathlib.CategoryTheory.Monoidal.Mon
+
+/-!
+Note: I was getting some error when I tried to submit a PR. Claude asked me to add
+that copyright section above - I am not sure if I am supposed to or not.
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Hom.lean]:
```suggestion
```
Yes, adding the copyright header to new file is expected. See the [header and imports sections of the contribution guidelines](https://leanprover-community.github.io/contribute/style.html#header-and-imports).

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Hom.lean [hunk 9]
```diff
@@ -0,0 +1,125 @@
...
+namespace IsMonHom
+
+
+/-- Given two morphisms `f g : X ⟶ G`, for a monoid object `G`, `add f g` defines the
+sum of these two -/
+abbrev add {X : C} (f g : X ⟶ G) : X ⟶ G := (lift f g) ≫ μ[G]
+
+-- I am not sure what is the right name for this
+lemma one_comp_lift (f g : G ⟶ G₁) [IsMonHom f] [IsMonHom g]
+    : (η[G] ≫ (lift f g)) = (lift η[G₁] η[G₁]) := by
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Hom.lean]: style: usually we drop as much unecessary parentheses as possible in mathlib.
```suggestion
lemma one_comp_lift (f g : G ⟶ G₁) [IsMonHom f] [IsMonHom g] : 
    η[G] ≫ lift f g = lift η[G₁] η[G₁] := by
```

**Comment by abhijitaj1997** [comment]
@alreadydone made a good point above. I'm sure I'll get some more suggestion regarding changes I need to make to my code. Along with those changes, I will also switch to `AddMonObj` instead of `MonObj`.

**Comment by abhijitaj1997** [comment]
-awaiting-author

File: Mathlib/CategoryTheory/Monoidal/Mon.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: `IsMonHom.add` was already defined https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.html#CategoryTheory.Hom.monoid

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: Ah, I missed this, good catch, thanks!

Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: Does that link combined with `instAddMonObjOfIsCommAddMonObjX` actually show that if 
`variable (M N : Mon C) [IsCommAddMonObj N.X]`

Then, `M ⟶ N` is an additive monoid? Basically, the addition I defined in this file is immediate from that, isn't it?

Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: Yes, this is what I said.

Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Mon.lean]: Hmm. Okay. I guess what is missing is the semiring/ring structure. I shall add that then.

**Comment by abhijitaj1997** [comment]
-awaiting-author

I have typed out the ring structure on the endomorphisms. I was forced to create a new file for this because adding it in `Cartesian/Mon` and `Cartesian/Grp` meant that I had to import rings which created some other errors.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean [hunk 10]
```diff
@@ -0,0 +1,123 @@
...
+
+variable {C : Type*} [Category* C] [CartesianMonoidalCategory C]
+
+section EndomorphismSemiring
+
+open AddMonObj CartesianMonoidalCategory
+
+variable {G : AddMon C} {H : AddMon C}
+
+instance : Mul (G ⟶ G) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean]: I believe the right type for this is `End G`. It already has a multiplication.

Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean]: @joelriou  but `End G` doesn't have the additive structures. So, would you say I should define the additive structure on it?

Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean]: Yes, I believe the right type to setup the additive structure (in a scoped instance) should be `End G`.

**Comment by abhijitaj1997** [comment]
-awaiting-author

I have switched from `G ⟶ G` to `End G`

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean [hunk 11]
```diff
@@ -0,0 +1,200 @@
...
+
+instance [BraidedCategory C] [IsCommAddMonObj G.X] : AddCommMonoid (G ⟶ G) := Hom.addCommMonoid
+
+lemma AddMon.add_hom [BraidedCategory C] [IsCommAddMonObj H.X] (f g : G ⟶ H)
+    : (f + g).hom = lift f.hom g.hom ≫ σ := rfl
+
+namespace AddMon.End
+
+/-- Given an `f : End G`, it returns the corrending term of typ `G ⟶ G` -/
+def toHom (f : End G) : G ⟶ G := f
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean:39]: That you had to do this is probably related to a current issue with the way `End` is defined. It should probably be change into a `1`-field structure, so that the types `G ⟶ G` and `End G` cannot be confused. I am afraid this is not the type of refactor I would recommend for a first time contributor :-(

Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean:39]: @joelriou yeah, I also felt like this was a little sad when I was typing it. What would you suggest I do?
1. Is it possible to define `End` using `abbrev`?
2. Would you suggest going back to `G ⟶ G` like I had before?
3. Something else?

Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean:39]: No, I am suggesting redefining `End` as a `1`-field structure. This is something I was considering doing for other reasons; I will try to do it in the very near future, which means that this PR should probably be postponed for a few days/weeks.
Making `End` an abbrev would not be a good idea because `G ⟶ G` and `End G` would have the same instances/structure. On `G ⟶ G`, I believe we want to use the composition of the morphisms in the category, but we do not want to write it as a multiplication `*`, while we want to do the exact opposite for `End G`!

Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean:39]: @joelriou Cool! I understand. Please do let me know when you've pushed these changes. I can make the necessary update after that.

**Comment by abhijitaj1997** [comment]
@joelriou I see you have made the changed you had mentioned above. I justed wanted to confirm if you had merged them already before I push my own.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean [hunk 12]
```diff
@@ -0,0 +1,200 @@
...
+
+lemma toHom_add (f g : End G) [BraidedCategory C] [IsCommAddMonObj G.X]
+  : toHom (f + g) = toHom f + toHom g := rfl
+
+lemma toHom_zero : toHom (0 : End G) = 0 := rfl
+
+lemma toHom_comp (f g : End G) : toHom (f ≫ g) = (toHom f) ≫ (toHom g) := rfl
+
+
+/-- For a commutaive addtitive monoid object `G`, the endomorphisms `End G` has
```
Comment (Multramate) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean:67]: You spelt this wrong in a bunch of places:
```suggestion
/-- For a commutative additive monoid object `G`, the endomorphisms `End G` has
```

Comment (abhijitaj1997) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean:67]: Oops. Spelling error are unfortunately very me. I'll fix that!

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean [hunk 13]
```diff
@@ -0,0 +1,200 @@
...
+section EndomorphismSemiring
+
+open AddMonObj CartesianMonoidalCategory
+
+variable {G : AddMon C} {H : AddMon C}
+
+instance [BraidedCategory C] [IsCommAddMonObj G.X] : AddCommMonoid (G ⟶ G) := Hom.addCommMonoid
+
+lemma AddMon.add_hom [BraidedCategory C] [IsCommAddMonObj H.X] (f g : G ⟶ H)
+    : (f + g).hom = lift f.hom g.hom ≫ σ := rfl
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Endomorphism.lean]: (3 more occurrences below)
```suggestion
lemma AddMon.add_hom [BraidedCategory C] [IsCommAddMonObj H.X] (f g : G ⟶ H) :
    (f + g).hom = lift f.hom g.hom ≫ σ := rfl
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean [hunk 14]
```diff
@@ -12,6 +12,8 @@ public import Mathlib.CategoryTheory.Monoidal.Cartesian.Basic
 public import Mathlib.CategoryTheory.Monoidal.Mon
 public import Mathlib.CategoryTheory.ConcreteCategory.Representable
 
+
+
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean]: please remove
